US04689345
Alpha and beta isomers of 2-(hept-1-yl)bicyclo[3.3.0]octan-7-one {4-heptylhexahydro-2(1H)-pentalenone}
The procedure followed is the same as that described in Example 29 substituting the starting material from Example 34, 6,6-dichloro-2-(hept-1-yl)bicyclo[3.2.0]heptan-7-one {7,7-dichloro-4-heptylbicyclo[3.2.0]heptan-6-one} and isomers (14.2 g, 0.051 moles), an etheral diazomethane solution (175 ml), methanol (5 ml), and acetic acid (15 ml). After the acetic acid is added the solvent is removed under vacuum leaving a clear yellow oil. The crude product is then dissolved in acetic acid (100 ml) and stirred while zinc powder (29 g) is slowly added. The reaction is heated in a 70° C. water bath for 1 hour, after which time ether (500 ml) is added and the solution filtered. The filtrate is washed with brine (100 ml) and then with a solution of saturated bicarbonate. The ether layer is separated and dried over anhydrous sodium sulfate. The solvent is removed under vacuum leaving a clear yellow oil. The crude product is chromatographed on silica gel and subsequently kugelrohred under vacuum leaving a clear, colorless oil (4.3 g, 0.015 moles).

reactant | 6,6-dichloro-2-(hept-1-yl)bicyclo[3.2.0]heptan-7-one | ClC1(C2CCC(C2C1=O)CCCCCCC)Cl | C14H22Cl2O
reactant | diazomethane | 175 ml | [N+](=[N-])=C | CH2N2
reactant | methanol | 5 ml | CO | CH4O
reactant | ether | 500 ml | CCOCC | C4H10O
solvent | acetic acid | 100 ml | C(C)(=O)O | C2H4O2
catalyst | zinc | 29 g | [Zn] | Zn
solvent | acetic acid | 15 ml | C(C)(=O)O | C2H4O2
product | 2-(hept-1-yl)bicyclo[3.3.0]octan-7-one | 0.015 moles, 4.3 g | C(CCCCCC)C1C2CC(CC2CC1)=O | C15H26O
